US04354973
8-Chloro-6-(2-chlorophenyl)-1-methyl-2H,4 H-pyrrolo[3,4-d][2]benzazepine-3-carboxaldehyde
By means of a syringe 0.6 ml (6.5 mmol) of phosphorous oxychloride was added to a solution of 0.7 g (2.0 mmol) of 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine in 8 ml of dimethylformamide which was cooled to 0°. The mixture was stirred at 0° for 1 hr, poured into 50 ml of saturated aqueous sodium carbonate and extracted with methylene chloride. The methylene chloride solution was washed with water, dried over anhydrous sodium sulfate and concentrated at reduced pressure to give a red amorphous solid. Purification by column chromatography (silica gel, 20 g; 4% ether in methylene chloride, eluent) gave an off-white solid. Recrystallization from a mixture of methylene chloride and ethyl acetate gave off-white crystals, mp 274°-276°.

reactant | phosphorous oxychloride | 6.5 mmol, 0.6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 8-chloro-6-(2-chlorophenyl)-1-methyl-2H,4H-pyrrolo[3,4-d][2]benzazepine | 2.0 mmol, 0.7 g | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=CNC3C)C=C1 | C19H14Cl2N2
reactant | sodium carbonate | 50 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | 8-Chloro-6-(2-chlorophenyl)-1-methyl-2H,4 H-pyrrolo[3,4-d][2]benzazepine-3-carboxaldehyde | ClC1=CC2=C(C=3C(CN=C2C2=C(C=CC=C2)Cl)=C(NC3C)C=O)C=C1 | C20H14Cl2N2O
